US05663440
In a 1-liter three-necked flask equipped with a stirring device and a nitrogen substituting device, 3.5 g of a Pd-C catalyst (a 5% product, containing 55.9% of water) and a solution of 35.0 g of 1,6-bis(4-(4-nitrobenzyl)phenyl)hexane in 200 milliliters of tetrahydrofuran were introduced, and contacted with hydrogen gas at a normal pressure with stirring. After hydrogen absorption was stopped, the catalyst was filtered off and the solution was concentrated. Crystals were dissolved in chloroform, subjected to a column chromatography treatment with active alumina and silica gel, and thereafter the solution was reconcentrated to give a concentrate, which was then recrystallized from a mixed solvent of toluene and denatured ethanol, to obtain 26.1 g of 1,6-bis(4-(4-aminobenzyl)phenyl)hexane. Melting point was from 111.4° to 112.2° C.

reactant | water | O | H2O
reactant | 1,6-bis(4-(4-nitrobenzyl)phenyl)hexane | 35.0 g | [N+](=O)([O-])C1=CC=C(CC2=CC=C(C=C2)CCCCCCC2=CC=C(C=C2)CC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C32H32N2O4
reactant | hydrogen | [H][H] | H2
catalyst | Pd-C | 3.5 g | [Pd] | Pd
solvent | tetrahydrofuran | 200 milliliters | O1CCCC1 | C4H8O
product | 1,6-bis(4-(4-aminobenzyl)phenyl)hexane | 26.1 g | NC1=CC=C(CC2=CC=C(C=C2)CCCCCCC2=CC=C(C=C2)CC2=CC=C(C=C2)N)C=C1 | C32H36N2
